US05446146
i) Methyl 4-(2-methylthiobenzyl)-1-piperazinecarbodithioate (Com. No. 9)
In 20 ml of ethanol, 2.1 g (12.2 mmol.) of 2-methylthiobenzyl chloride, 2.17 g (12.3 mmol.) of methyl 1-piperazinecarbodithioate and 1.30 g (12.3 mmol.) of sodium carbonate were refluxed under heating for 2 hours. Ethanol was distilled off under reduced pressure. The residue was extracted with ether, after addition of water. The ether portion was washed with water and a saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, and placed under reduced pressure to distill off the solvent. The residue was purified over silica gel column, to give 1.18 g of the desired compound as a yellow oil, yield 31%.

reactant | 2-methylthiobenzyl chloride | 12.2 mmol, 2.1 g | CSC1=C(CCl)C=CC=C1 | C8H9ClS
reactant | methyl 1-piperazinecarbodithioate | 12.3 mmol, 2.17 g | N1(CCNCC1)C(=S)SC | C6H12N2S2
reactant | sodium carbonate | 12.3 mmol, 1.30 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | Methyl 4-(2-methylthiobenzyl)-1-piperazinecarbodithioate | 1.18 g, yield 31% | CSC1=C(CN2CCN(CC2)C(=S)SC)C=CC=C1 | C14H20N2S3
